US04579861
[C] 1-(3,4-Dimethoxyphenyl)-3-(2-aminoethyl)hydantoin
In the same way as in [A] and reacting the N-(3,4-dimethoxyphenyl)glycine (17.2 g, 81 mmoles) with potassium cyanate (6.6 g, 81 mmoles) the 1-(3,4-dimethoxyphenyl)hydantoin was obtained, m.p. 223°-225° C. By reacting the latter (11.23 g, 47.5 mmoles) with 2-bromoethylamine hydrobromide (9.74 g, 47.5 mmoles) as described in [A] the title compound was obtained, m.p. 162°-164° C.

reactant | N-(3,4-dimethoxyphenyl)glycine | 81 mmoles, 17.2 g | COC=1C=C(C=CC1OC)NCC(=O)O | C10H13NO4
reactant | potassium cyanate | 81 mmoles, 6.6 g | [O-]C#N.[K+]
reactant | 1-(3,4-dimethoxyphenyl)hydantoin | COC=1C=C(C=CC1OC)N1C(=O)NC(=O)C1 | C11H12N2O4
reactant | 2-bromoethylamine hydrobromide | 47.5 mmoles, 9.74 g | Br.BrCCN
product | 1-(3,4-Dimethoxyphenyl)-3-(2-aminoethyl)hydantoin | COC=1C=C(C=CC1OC)N1C(=O)N(C(=O)C1)CCN | C13H17N3O4
